US05684003
To a solution of sodium dihydrogenphospate (123.1 g) and citric acid (31.1 g) in water (3000 ml) were added in turn n-butylamine (35.5 g) and acetonedicarboxylic acid (77.0 g) and pH was adjusted to 4.6 with a 10% aqueous solution of sodium hydroxide. To the reaction solution was added dropwise at room temperature a solution of the crude aldehyde (23 g) in methanol (20 ml) and the mixture was stirred for 65 hours. Then, a 10% aqueous solution of potassium hydroxide (300 ml) was added to the reaction solution and extracted five times with chloroform. The combined organic layer was washed with a 10% aqueous solution of sodium hydroxide (200 ml), dried over potassium carbonate and the solvent was distilled off under reduced pressure. The residue was purified by a silica gel column chromatography (ethyl acetate) to give 9-(n-butyl)-3-oxa-9-azabicyclo[3.3.1]nonan-7-one (28.2 g).

reactant | sodium dihydrogenphospate | 123.1 g | P(=O)(O)(O)[O-].[Na+]
reactant | citric acid | 31.1 g | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | n-butylamine | 35.5 g | C(CCC)N | C4H11N
reactant | acetonedicarboxylic acid | 77.0 g | C(C(=O)CC(=O)O)C(=O)O | C5H6O5
reactant | sodium hydroxide | [OH-].[Na+]
reactant | potassium hydroxide | 300 ml | [OH-].[K+]
solvent | water | 3000 ml | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | 9-(n-butyl)-3-oxa-9-azabicyclo[3.3.1]nonan-7-one | 28.2 g | C(CCC)N1C2COCC1CC(C2)=O | C11H19NO2
